US04876277
3,4 Methylenedioxy Phenol (1)
commercial piperonal (Aldrich) (60 g) was dissolved in CH2Cl2 (500 ml), m--chloroperoxybenzoic acid (MCPBA) (90 g) added in portions and left to stir at room temperature (18 hrs.). The precipitate was filtered off and washed with CH2Cl2. The combined filtrate was then washed with cold saturated Na2CO3 solution, followed by H2O, dried over anhy. MgSO4 and evaporated to dryness. The resulting formate ester, δ (CDCl3, 300 Hz): 5.99 (2H, s, OCH2O), 6.56 (1H, d, J=8 Hz, H-6), 6.65 (1H, d, J=2 Hz, H-2), 6.70 (1H, d, J=8 Hz, H-5), 8.25 (1H, s, formate), was dissolved in MeOH (250 ml) and mixed with a solution of 30 g KOH in 200 ml MeOH. The reaction mixture was left at room temp for 15 hrs., evaporated to dryness, the residue dissolved in water (300 ml), acidified to neutral by dilute HCl (6N) and extracted with ethyl acetate. The organic layer was washed with NaHCO3 followed by water, dried over anhy. MgSO4 and evaporated to dryness. The crude product (57 g) was recrystallized from hexane (48 g), to yield colourless crystals, mp. 54°-55° C.; IR νmaxKBr cm-1 : 3580, 1625; UV νmaxMeOH nm (ε): 300.1 (2436), 234.2 (2269), 215.3 (2697), with KOH in methanol 314.2 (2477), 242.6 (2781), 225.6 (2746); 1H-NMR δ (CDCl3): 5.90 2H, s, OCH2O), 6.15 (1H, dd, J=2.4, 8.0 Hz, H-6), 6.24 (1H, d, J=2.4 Hz, H-2), 6.34 (1H, d, J=8.0, Hz, H-5), 4.68 (1H, bs, exchanged with D2O, phenolic); HRMS m/z: 138.0316 (M+, 100, C7H6O3), 137.0238 (M+ -H, 88.42, C7H5O3).

reactant | piperonal | 60 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | m--chloroperoxybenzoic acid | 90 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | KOH | [OH-].[K+]
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3,4 Methylenedioxy Phenol | C1OC=2C=C(C=CC2O1)O | C7H6O3
